US07560558B2
Compound 421: 3-(6,7-Dimethoxy-quinolin-4-yloxy)-2-pyridin-2-yl-[1,8]naphthyridine
2-Pyridin-2-yl-[1,8]naphthyridin-3-ol (9 mg), 4-chloro-6,7-dimethoxyquinoline (27 mg), and 4-dimethylaminopyridine (16 mg) were suspended in o-dichlorobenzene (1.5 ml), and the mixture was stirred at 140° C. for 48 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was then washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give the title compound (2 mg, yield 12%).

reactant | 2-Pyridin-2-yl-[1,8]naphthyridin-3-ol | 9 mg | N1=C(C=CC=C1)C1=NC2=NC=CC=C2C=C1O | C13H9N3O
reactant | 4-chloro-6,7-dimethoxyquinoline | 27 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 16 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 1.5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(6,7-Dimethoxy-quinolin-4-yloxy)-2-pyridin-2-yl-[1,8]naphthyridine | 2 mg, yield 12% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC2=NC=CC=C2C1)C1=NC=CC=C1 | C24H18N4O3
